US09056865B2
Step 3: N-(1-(5-chloro-4-(pyridin-2-yl)pyrimidin-2-yl)piperidin-4-yl)methanesulfonamide
NCS (370 mg, 2.83 mmol) was added to a solution of N-(1-(4-(pyridin-2-yl)pyrimidin-2-yl)piperidin-4-yl)methanesulfonamide (180 mg, 2.36 mmol) in AcOH (10 mL) at 60° C. and the reaction solution was stirred for 2 h. LC-MS indicated the reaction was almost complete. The reaction solution was concentrated and purified by chromatography, eluted with CH2Cl2:MeOH (6:1) to give crude product, which was further purified by Prep-HPLC to give title compound (251 mg, 29%) as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 8.68-8.70 (d, 1H), 8.29 (s, 1H), 7.75-7.79 (m, 1H), 7.70-7.72 (d, 1H), 7.31-7.34 (t, 1H), 4.60-4.63 (d, 2H), 4.18-4.20 (d, 1H), 3.53-3.57 (t, 1H), 2.94 (s, 3H), 1.99-2.02 (d, 1H), 1.39-1.49 (m, 1H); m/z for C15H18ClN5O2S 390.1 (M+Na)+.

reactant | NCS | 2.83 mmol, 370 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | N-(1-(4-(pyridin-2-yl)pyrimidin-2-yl)piperidin-4-yl)methanesulfonamide | 2.36 mmol, 180 mg | N1=C(C=CC=C1)C1=NC(=NC=C1)N1CCC(CC1)NS(=O)(=O)C | C15H19N5O2S
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | N-(1-(5-chloro-4-(pyridin-2-yl)pyrimidin-2-yl)piperidin-4-yl)methanesulfonamide | 251 mg, 29% | ClC=1C(=NC(=NC1)N1CCC(CC1)NS(=O)(=O)C)C1=NC=CC=C1 | C15H18ClN5O2S
